US07846944B2
Step 3: Synthesis of 3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-4-(hydroxymethyl)benzoic acid
Tetrakis(triphenylphosphine)palladium(0) (38 mg, 33 μmol), 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (373 mg, 1096 μmol), methyl 4-(acetoxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (403 mg, 1206 μmol) were treated with 1,4-dioxane (5.4 mL) and 1 M aqueous Na2CO3 (2.74 mL, 2741 μmol) under argon and heated in a microwave at 130° C. for 30 min. The reaction mixture was treated with EtOAc (20 mL) and extracted with 1N NaOH (2×15 mL). The pH was adjusted to ca. pH 6 with 5N HCl and extracted with DCM (3×20 mL), dried over MgSO4, filtered and concentrated affording the title compound (186 mg) as a yellow tar. The crude residue was used in the next step without further purification. MS (ESI, pos.ion) m/z: 412.1 (M+1).

reactant | 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 1096 μmol, 373 mg | BrC1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2F)F | C13H8BrF2N3O
reactant | methyl 4-(acetoxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1206 μmol, 403 mg | C(C)(=O)OCC1=C(C=C(C(=O)OC)C=C1)B1OC(C(O1)(C)C)(C)C | C17H23BO6
reactant | 1,4-dioxane | 5.4 mL | O1CCOCC1 | C4H8O2
reactant | Na2CO3 | 2741 μmol, 1 M, 2.74 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 33 μmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-4-(hydroxymethyl)benzoic acid | 186 mg | FC1=C(C(=CC=C1)F)N1N=CC2=C1N(C(C(=C2)C=2C=C(C(=O)O)C=CC2CO)=O)C | C21H15F2N3O4
